US04229461
5.0 g of the thus obtained 2-methyl-3-(3,5-dichlorophenylcarbamoyl)thiazolidine-2-carboxylic acid and 5 mg of sodium acetate were added to 30 ml of acetic anhydride and heated at 90° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, to which was added water. The resultant crystals were recrystallized from a mixed solvent of ethyl acetate and n-hexane to give 3.92 g of 7a-methyl-6-(3,5-dichlorophenyl)perhydroimidazo[5,1-b]thiazole-5,7-dion (Compound No. 3). The results of the elementary analysis and the melting point were as given in table 1.

reactant | 2-methyl-3-(3,5-dichlorophenylcarbamoyl)thiazolidine-2-carboxylic acid | CC1(SCCN1C(NC1=CC(=CC(=C1)Cl)Cl)=O)C(=O)O | C12H12Cl2N2O3S
reactant | sodium acetate | 5 mg | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7a-methyl-6-(3,5-dichlorophenyl)perhydroimidazo[5,1-b]thiazole-5,7-dion | 3.92 g | CC12SCCN1C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O | C12H10Cl2N2O2S
